US09212118B2
1-ethyl-2-fluoro-4-methoxybenzene (MET) (7.70 g, 50 mmol) was dissolved in acetonitrile (100 mL), and NBS (9.80 g, 55 mmol) was added in a single solid addition. The reaction was stirred at rt and was completed in 3-4 hours. The reaction mixture was quenched with 2M Na2SO3 (40 mL, 0.08 mol) and concentrated to ¼ of the total volume, then diluted with water (80 mL) and petroleum ether (50 mL). The organic layer was cut and washed with water (3×50 mL), 1M NaOH (50 mL), water (50 mL), dried over Na2SO4 and filtered. The solvent was removed under reduced pressure to yield 1-bromo-5-ethyl-4-fluoro-2-methoxybenzene (BrMET) as a colorless oil (11.16 g, 96%): 1H NMR (CDCl3) δ 1.19 (t, J=7.6, 3H), 2.58 (q, J=7.6, 2H), 3.85 (s, 3H), 6.61 (d, J=11.4, 1H), 7.35 (d, J=8.1, 1H).

reactant | 1-ethyl-2-fluoro-4-methoxybenzene | 50 mmol, 7.70 g | C(C)C1=C(C=C(C=C1)OC)F | C9H11FO
reactant | NBS | 55 mmol, 9.80 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | Na2SO3 | 0.08 mol, 2M, 40 mL | [O-]S(=O)[O-].[Na+].[Na+]
solvent | acetonitrile | 100 mL | C(C)#N | C2H3N
product | 1-bromo-5-ethyl-4-fluoro-2-methoxybenzene | 11.16 g, 96% | BrC1=C(C=C(C(=C1)CC)F)OC | C9H10BrFO
